US08623889B2
Step 2: (2-(7-(4-methylpyridin-3-yl)isoquinolin-3-ylamino)pyridin-4-yl)methanol
The title compound was prepared following the procedures described for Example 13, using 7-(4-methylpyridin-3-yl)isoquinolin-3-amine and 2-bromopyridine-4-methanol, to yield 26.2 mg (44%) of (2-(7-(4-methylpyridin-3-yl)isoquinolin-3-ylamino)pyridin-4-yl)methanol. LCMS (ESI): RT (min)=2.759, M+H=343.1, method=E; 1H NMR (400 MHz, DMSO-d6) δ 9.79 (s, 1H), 9.12 (s, 1H), 8.57 (s, 1H), 8.49 (s, 1H), 8.47 (d, J=5.0 Hz, 1H), 8.23 (d, J=5.2 Hz, 1H), 8.00 (s, 1H), 7.88 (d, J=8.5 Hz, 1H), 7.67 (d, J=8.6 Hz, 1H), 7.38 (d, J=4.9 Hz, 1H), 7.29 (s, 1H), 6.81 (d, J=5.1 Hz, 1H), 5.35 (t, J=5.7 Hz, 1H), 4.50 (d, J=5.6 Hz, 2H), 2.34 (s, 3H).

reactant | 7-(4-methylpyridin-3-yl)isoquinolin-3-amine | CC1=C(C=NC=C1)C1=CC=C2C=C(N=CC2=C1)N | C15H13N3
reactant | 2-bromopyridine-4-methanol | BrC1=NC=CC(=C1)CO | C6H6BrNO
product | (2-(7-(4-methylpyridin-3-yl)isoquinolin-3-ylamino)pyridin-4-yl)methanol | 26.2 mg, 44% | CC1=C(C=NC=C1)C1=CC=C2C=C(N=CC2=C1)NC1=NC=CC(=C1)CO | C21H18N4O
